US05321027
The 1-[2-chloro-4-(N-benzyloxycarbonyl-N-methylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine hydrochloride obtained in accordance with Example 18 is dissolved in 15 ml of methanol and debenzylated in the presence of 0.2 g of 10% palladium-on-carbon, yielding 1-[4-(N-methylamino)-2-chlorobenzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine having a melting point of 200°.

reactant | 1-[2-chloro-4-(N-benzyloxycarbonyl-N-methylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine hydrochloride | Cl.ClC1=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=CC(=C1)N(C)C(=O)OCC1=CC=CC=C1
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.2 g | [Pd] | Pd
product | 1-[4-(N-methylamino)-2-chlorobenzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | CNC1=CC(=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1)Cl | C20H23Cl2N3O
